### PR TITLE
[Merged by Bors] - feat(FieldTheory): introduce normalized trace map

### PR DESCRIPTION
**Pull request by mistarro**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/NormalizedTrace.lean [hunk 1]
```diff
@@ -0,0 +1,148 @@
...
+/-- The normalized trace commutes with (injective) maps. -/
+@[simp]
+theorem normalizedTrace_comp {E : Type*} [Field E] [Algebra F E] [Algebra.IsIntegral F E]
+    (f : E →ₐ[F] K) : normalizedTrace F K ∘ₗ f = normalizedTrace F E :=
+  LinearMap.ext <| normalizedTrace_map F K f
+
+/-- The normalized trace transfers via restriction to a subextension. -/
+theorem normalizedTrace_intermediateField {E : IntermediateField F K} (a : E) :
+    normalizedTrace F K a = normalizedTrace F E a :=
+  normalizedTraceAux_intermediateField F K a
```
Comment (acmepjz) [inline Mathlib/FieldTheory/NormalizedTrace.lean:137]: Do you think it's better to have a version which only uses 3 abstract fields with `IsScalarTower` without mentioning  `IntermediateField`?

File: Mathlib/FieldTheory/NormalizedTrace.lean [hunk 2]
```diff
@@ -0,0 +1,148 @@
...
+
+theorem normalizedTrace_eq_of_fininteDimensional [FiniteDimensional F K] :
+    normalizedTrace F K = (Module.finrank F K : F)⁻¹ • Algebra.trace F K := by
+  ext x
+  rw [LinearMap.smul_apply, smul_eq_mul, mul_comm, ← div_eq_mul_inv]
+  apply normalizedTraceAux_eq_of_fininteDimensional
+
+/-- The normalized trace map is non-trivial. -/
+theorem nontrivial_normalizedTrace : normalizedTrace F K ≠ 0 :=
```
Comment (acmepjz) [inline Mathlib/FieldTheory/NormalizedTrace.lean:146]: Maybe this should called `normalizedTrace_ne_zero` as `nontrivial` in theorem name usually refers to Lean's `Nontrivial`.

File: Mathlib/FieldTheory/NormalizedTrace.lean (hunk 1 above)
Comment (mistarro) [reply Mathlib/FieldTheory/NormalizedTrace.lean:137]: But there is no coercion from `E` to `K`, so i would have to use `algebraMap E K` explicitly?

Comment (mistarro) [reply Mathlib/FieldTheory/NormalizedTrace.lean:137]: This is how it would look like:
```lean4
theorem normalizedTraceAux_intermediateField₁ {E : Type*} [Field E] [Algebra F E] [Algebra E K]
    [IsScalarTower F E K] (a : E) :
    normalizedTraceAux F K (algebraMap E K a) = normalizedTraceAux F E a :=
  normalizedTraceAux_map F K (IsScalarTower.toAlgHom F E K) a
```
so it is basically `normalizedTraceAux_map` with `f = IsScalarTower.toAlgHom F E K`.

Comment (acmepjz) [reply Mathlib/FieldTheory/NormalizedTrace.lean:141]: > use `algebraMap E K` explicitly

Yes that's reasonable.

```lean
theorem normalizedTraceAux_intermediateField₁ {E : Type*} [Field E] [Algebra F E] [Algebra E K]
    [IsScalarTower F E K] (a : E) :
    normalizedTraceAux F K (algebraMap E K a) = normalizedTraceAux F E a :=
  normalizedTraceAux_map F K (IsScalarTower.toAlgHom F E K) a
```

Maybe it's better called `normalizedTraceAux_algebraMap` I think.

**Comment by acmepjz** [comment]
Maybe you could add a `IsScalarTower` section to state several results on towers. Besides `normalizedTraceAux_intermediateField₁` I think there is another one: for an extension tower `K/E/F`, normalized trace from K to F is equal to the composition of normalized trace from K to E and the normalized trace from E to F.

File: Mathlib/FieldTheory/NormalizedTrace.lean (hunk 1 above)
Comment (mistarro) [reply Mathlib/FieldTheory/NormalizedTrace.lean:141]: Yup, I can do it

**Comment by mistarro** [comment]
> Maybe you could add a `IsScalarTower` section to state several results on towers. Besides `normalizedTraceAux_intermediateField₁` I think there is another one: for an extension tower `K/E/F`, normalized trace from K to F is equal to the composition of normalized trace from K to E and the normalized trace from E to F.

I was thinking about it but the proof is not easy. If `E / F` is finite, then it's true, still working on proving it in generality. As always there are more and more results that we could add. I think we could start with what we have and then build on top of that. Otherwise the PR will become huge and nobody but you would want to review it ;)

**Comment by acmepjz** [comment]
> I was thinking about it but the proof is not easy.

Isn't it follows from the similar tower law for unnormalized trace? Since now it's characteristic 0, all field extensions are separable.

> If `E / F` is finite, then it's true, still working on proving it in generality.

Oh I mean that `K/F` is finite. Otherwise there must be a lot of corner cases :)

**Comment by mistarro** [comment]
> > I was thinking about it but the proof is not easy.
> 
> Doesn't it follow from the similar tower law for unnormalized trace? Since now it's characteristic 0, all field extensions are separable.
> 
> > If `E / F` is finite, then it's true, still working on proving it in generality.
> 
> Oh I mean that `K/F` is finite. Otherwise there must be a lot of corner cases :)

The thing is, normalized trace works for any *algebraic* extension. For finite it is easy, and even just for the bottom part (`E/F`) finite is easy. But I would like to prove in general, just there's a lot more work to be done.

**Comment by acmepjz** [comment]
I see. Are you sure it's true for all cases? I think for now we can state a version with `[FiniteDimensional F E]` assumption (and we don't mention this assumption in the theorem name). Since it's an instance variable, later we can remove it safely.

File: Mathlib/FieldTheory/NormalizedTrace.lean [hunk 3]
```diff
@@ -0,0 +1,173 @@
...
+
+@[simp]
+theorem normalizedTrace_algebraMap :
+    normalizedTrace F K ∘ algebraMap E K = normalizedTrace F E :=
+  funext <| normalizedTrace_algebraMap_apply F E K
+
+end IsScalarTower
+
+@[simp]
+theorem normalizedTrace_algebraMap_eq_id_apply (a : F) :
```
Comment (acmepjz) [inline Mathlib/FieldTheory/NormalizedTrace.lean:142]: Maybe this should called `normalizedTrace_algebraMap_apply_eq_self`?

Also for the `simp can prove this` error, maybe you could move `@[simp]` from these two results, and their proofs are all `simp`.

File: Mathlib/FieldTheory/NormalizedTrace.lean [hunk 4]
```diff
@@ -0,0 +1,173 @@
...
+    let a' : E := ⟨a, ha⟩
+    let b' : E := ⟨b, hb⟩
+    let ab' : E := ⟨a + b, hab⟩
+    rw [normalizedTraceAux_intermediateField F K a',
+      normalizedTraceAux_intermediateField F K b',
+      normalizedTraceAux_intermediateField F K ab',
+      normalizedTraceAux_eq_of_fininteDimensional F a',
+      normalizedTraceAux_eq_of_fininteDimensional F b',
+      normalizedTraceAux_eq_of_fininteDimensional F ab',
+      ← add_div, ← map_add]
```
Comment (acmepjz) [inline Mathlib/FieldTheory/NormalizedTrace.lean:85]: Is it possible to use `simp_rw [normalizedTraceAux_intermediateField F K, normalizedTraceAux_eq_of_fininteDimensional F, ← add_div, ← map_add]`? (untested)

Same as the next one.

File: Mathlib/FieldTheory/NormalizedTrace.lean (hunk 3 above)
Comment (mistarro) [reply Mathlib/FieldTheory/NormalizedTrace.lean]: Renamed and hopefully fixed.

File: Mathlib/FieldTheory/NormalizedTrace.lean (hunk 4 above)
Comment (mistarro) [reply Mathlib/FieldTheory/NormalizedTrace.lean:85]: Does not work :smiling_face_with_tear:

File: Mathlib/FieldTheory/NormalizedTrace.lean [hunk 5]
```diff
@@ -0,0 +1,170 @@
...
+
+@[simp]
+theorem normalizedTrace_algebraMap_apply (a : E) :
+    normalizedTrace F K (algebraMap E K a) = normalizedTrace F E a :=
+  normalizedTrace_map F K (IsScalarTower.toAlgHom F E K) a
+
+@[simp]
+theorem normalizedTrace_algebraMap :
+    normalizedTrace F K ∘ algebraMap E K = normalizedTrace F E :=
+  funext <| normalizedTrace_algebraMap_apply F E K
```
Comment (acmepjz) [inline Mathlib/FieldTheory/NormalizedTrace.lean:137]: I don't know if it's better to add a `LinearMap` version, namely, use `normalizedTrace F K ∘ₗ Algebra.linearMap E K` instead. The current version only states that they are equal after converting to maps.

Comment (mistarro) [reply Mathlib/FieldTheory/NormalizedTrace.lean:137]: Indeed, this is nicer!

**Review by acmepjz — APPROVED** [review]
Thank you! I think this PR is good to go.

Do you think it's a good idea to put `normalizedTrace` into a namespace, just like `Algebra.trace`?

File: Mathlib/FieldTheory/NormalizedTrace.lean [hunk 6]
```diff
@@ -0,0 +1,203 @@
...
+
+variable [CharZero F]
+
+variable {K} in
+theorem normalizedTraceAux_eq_of_fininteDimensional [FiniteDimensional F K] (a : K) :
+    normalizedTraceAux F K a = (Module.finrank F K : F)⁻¹ • Algebra.trace F K a := by
+  have h := (Nat.cast_ne_zero (R := F)).mpr <|
+    Nat.pos_iff_ne_zero.mp <| Module.finrank_pos (R := F⟮a⟯) (M := K)
+  rw [smul_eq_mul, mul_comm, ← div_eq_mul_inv, trace_eq_trace_adjoin F a,
+   ← Module.finrank_mul_finrank F F⟮a⟯ K,
```
[the remark this answers is not in the document]
Comment (mistarro) [reply Mathlib/FieldTheory/NormalizedTrace.lean]: Compressed this `rw` a bit.

**Comment by mistarro** [comment]
> Thank you! I think this PR is good to go.
> 
> Do you think it's a good idea to put `normalizedTrace` into a namespace, just like `Algebra.trace`?

Also `Algebra`? Otherwise I have no idea...

**Comment by acmepjz** [comment]
> > Do you think it's a good idea to put `normalizedTrace` into a namespace, just like `Algebra.trace`?
> 
> Also `Algebra`? Otherwise I have no idea...

Yes `Algebra`. (Or `Field` if it's only intended to defined over fields; I'm not sure...)

**Comment by mistarro** [comment]
> > > Do you think it's a good idea to put `normalizedTrace` into a namespace, just like `Algebra.trace`?
> > 
> > 
> > Also `Algebra`? Otherwise I have no idea...
> 
> Yes `Algebra`. (Or `Field` if it's only intended to defined over fields; I'm not sure...)

So maybe let's wait for another review. I don't mind putting it in a namespace but I'd like to do it with a good namespace.

**Comment by mistarro** [comment]
After merging some necessary results I was able to prove general tower law for the normalized trace (`normalizedTrace_trans[_apply]`).

File: Mathlib/FieldTheory/NormalizedTrace.lean [hunk 7]
```diff
@@ -0,0 +1,243 @@
...
+
+This file defines *normalized trace* map, that is, an `F`-linear map from the algebraic closure
+of `F` to `F` defined as the trace of an element from its adjoin extension divided by its degree.
+
+To avoid heavy imports, we define it here as a map from an arbitrary algebraic (equivalently
+integral) extension of `F`.
+
+## Main definitions
+
+- `normalizedTrace`: a non-trivial `F`-linear map from an arbitrary algebraic extension `K` to `F`.
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/NormalizedTrace.lean:20]: This doc seems confusing, can you describe the actual definition?

File: Mathlib/FieldTheory/NormalizedTrace.lean [hunk 8]
```diff
@@ -0,0 +1,243 @@
...
+-/
+
+variable (F K : Type*) [Field F] [Field K] [Algebra F K]
+
+open IntermediateField
+
+/- The normalized trace function from an extension `K` to the base field `F`.
+Note: this definition does not require the extension `K / F` to be integral (algebraic)
+nor the fields to be of characteristic zero. -/
+private noncomputable def normalizedTraceAux (a : K) : F :=
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/NormalizedTrace.lean:40]: Here `K` can be implicit, but not very important since it is `private`.

File: Mathlib/FieldTheory/NormalizedTrace.lean [hunk 9]
```diff
@@ -0,0 +1,243 @@
...
+
+variable {K} in
+private theorem normalizedTraceAux_eq_of_fininteDimensional [FiniteDimensional F K] (a : K) :
+    normalizedTraceAux F K a = (Module.finrank F K : F)⁻¹ • Algebra.trace F K a := by
+  have h := (Nat.cast_ne_zero (R := F)).mpr <|
+    Nat.pos_iff_ne_zero.mp <| Module.finrank_pos (R := F⟮a⟯) (M := K)
+  rw [smul_eq_mul, mul_comm, ← div_eq_mul_inv, trace_eq_trace_adjoin F a,
+    ← Module.finrank_mul_finrank F F⟮a⟯ K, nsmul_eq_mul, Nat.cast_mul, mul_comm,
+    mul_div_mul_right _ _ h, div_eq_mul_inv, mul_comm, ← smul_eq_mul]
+  rfl
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/NormalizedTrace.lean:64]: Can you add a lemma that can be rewritten here, instead of using `rfl`?

File: Mathlib/FieldTheory/NormalizedTrace.lean [hunk 10]
```diff
@@ -0,0 +1,243 @@
...
+variable [Algebra.IsIntegral F K]
+
+/-- The normalized trace map from an algebraic extension `K` to the base field `F`. -/
+noncomputable def normalizedTrace : K →ₗ[F] F where
+  toFun := normalizedTraceAux F K
+  map_add' a b := by
+    let E := F⟮a⟯ ⊔ F⟮b⟯
+    haveI : FiniteDimensional F F⟮a⟯ := adjoin.finiteDimensional (Algebra.IsIntegral.isIntegral a)
+    haveI : FiniteDimensional F F⟮b⟯ := adjoin.finiteDimensional (Algebra.IsIntegral.isIntegral b)
+    haveI : FiniteDimensional F E := finiteDimensional_sup F⟮a⟯ F⟮b⟯
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/NormalizedTrace.lean:75]:
```suggestion
    have : FiniteDimensional F F⟮a⟯ := adjoin.finiteDimensional (Algebra.IsIntegral.isIntegral a)
    have : FiniteDimensional F F⟮b⟯ := adjoin.finiteDimensional (Algebra.IsIntegral.isIntegral b)
```

File: Mathlib/FieldTheory/NormalizedTrace.lean [hunk 11]
```diff
@@ -0,0 +1,243 @@
...
+    let b' : E := ⟨b, hb⟩
+    let ab' : E := ⟨a + b, hab⟩
+    rw [normalizedTraceAux_intermediateField F K a',
+      normalizedTraceAux_intermediateField F K b',
+      normalizedTraceAux_intermediateField F K ab',
+      normalizedTraceAux_eq_of_fininteDimensional F a',
+      normalizedTraceAux_eq_of_fininteDimensional F b',
+      normalizedTraceAux_eq_of_fininteDimensional F ab',
+      ← smul_add, ← map_add]
+    rfl
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/NormalizedTrace.lean:89]: Same as above.

File: Mathlib/FieldTheory/NormalizedTrace.lean [hunk 12]
```diff
@@ -0,0 +1,243 @@
...
+  map_smul' m a := by
+    dsimp only [AddHom.toFun_eq_coe, AddHom.coe_mk, RingHom.id_apply]
+    let E := F⟮a⟯
+    haveI : FiniteDimensional F F⟮a⟯ := adjoin.finiteDimensional (Algebra.IsIntegral.isIntegral a)
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/NormalizedTrace.lean:93]:
```suggestion
    have : FiniteDimensional F F⟮a⟯ := adjoin.finiteDimensional (Algebra.IsIntegral.isIntegral a)
```

File: Mathlib/FieldTheory/NormalizedTrace.lean [hunk 13]
```diff
@@ -0,0 +1,243 @@
...
+    have ha : a ∈ E := mem_adjoin_simple_self F a
+    have hma : m • a ∈ E := smul_mem E ha
+    let a' : E := ⟨a, ha⟩
+    let ma' : E := ⟨m • a, hma⟩
+    rw [normalizedTraceAux_intermediateField F K a',
+      normalizedTraceAux_intermediateField F K ma',
+      normalizedTraceAux_eq_of_fininteDimensional F a',
+      normalizedTraceAux_eq_of_fininteDimensional F ma',
+      smul_comm, ← map_smul _ m]
+    rfl
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/NormalizedTrace.lean:103]: Same.

File: Mathlib/FieldTheory/NormalizedTrace.lean [hunk 14]
```diff
@@ -0,0 +1,243 @@
...
+
+theorem normalizedTrace_def (a : K) :
+    normalizedTrace F K a =
+    (Module.finrank F F⟮a⟯ : F)⁻¹ • Algebra.trace F F⟮a⟯ (AdjoinSimple.gen F a) :=
+  rfl
+
+variable {K} in
+/- Could be an alternative definition but it is harder to work with linearlity. -/
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/NormalizedTrace.lean:111]:
```suggestion
/-- Could be an alternative definition but it is harder to work with linearity. -/
```
Also, can you clarify when one should use this one?

File: Mathlib/FieldTheory/NormalizedTrace.lean [hunk 15]
```diff
@@ -0,0 +1,243 @@
...
+    (minpoly F a).natDegree_map,
+    (minpoly F a).nextCoeff_map (algebraMap F E).injective,
+    map_mul, map_neg]
+
+/- An auxiliary result to prove `normalizedTrace_trans_apply`. It differs from
+`normalizedTrace_trans_apply` only by the extra assumption about finiteness of `E` over `F`. -/
+private theorem normalizedTrace_trans_apply_aux [FiniteDimensional F E] [Algebra.IsIntegral E K]
+    [CharZero E] (a : K) :
+    normalizedTrace F E (normalizedTrace E K a) = normalizedTrace F K a := by
+  haveI : FiniteDimensional E E⟮a⟯ :=
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/NormalizedTrace.lean:182]:
```suggestion
  have : FiniteDimensional E E⟮a⟯ :=
```

File: Mathlib/FieldTheory/NormalizedTrace.lean [hunk 16]
```diff
@@ -0,0 +1,243 @@
...
+    IntermediateField.adjoin.finiteDimensional (Algebra.IsIntegral.isIntegral a)
+  rw [normalizedTrace_def E K, inv_natCast_smul_eq (R := E) (S := F), map_smul,
+    normalizedTrace_eq_of_fininteDimensional F E, LinearMap.smul_apply, ← smul_assoc,
+    smul_eq_mul (a := _⁻¹), ← mul_inv, Algebra.trace_trace, mul_comm,
+    ← Nat.cast_mul, Module.finrank_mul_finrank, eq_comm]
+  let E' := E⟮a⟯.restrictScalars F
+  haveI : FiniteDimensional F E' := Module.Finite.trans E E⟮a⟯
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/NormalizedTrace.lean:189]:
```suggestion
  have : FiniteDimensional F E' := Module.Finite.trans E E⟮a⟯
```

File: Mathlib/FieldTheory/NormalizedTrace.lean [hunk 17]
```diff
@@ -0,0 +1,243 @@
...
+/-- For a tower `K / E / F` of algebraic extensions, the normalized trace from `K` to `E` composed
+with the normalized trace from `E` to `F` equals the normalized trace from `K` to `F`. -/
+theorem normalizedTrace_trans_apply [Algebra.IsIntegral E K] [CharZero E] (a : K) :
+    normalizedTrace F E (normalizedTrace E K a) = normalizedTrace F K a :=
+  let S : Set E := (minpoly E a).coeffs
+  let E₀ := adjoin F S
+  haveI : S.Finite := by simp_all only [Finset.finite_toSet, S]
+  haveI : FiniteDimensional F E₀ := IntermediateField.finiteDimensional_adjoin
+    fun x _ ↦ Algebra.IsIntegral.isIntegral x
+  haveI : Algebra.IsIntegral E₀ K := Algebra.IsIntegral.trans E
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/NormalizedTrace.lean:208]:
```suggestion
  have : S.Finite := by simp_all only [Finset.finite_toSet, S]
  have : FiniteDimensional F E₀ := IntermediateField.finiteDimensional_adjoin
    fun x _ ↦ Algebra.IsIntegral.isIntegral x
  have : Algebra.IsIntegral E₀ K := Algebra.IsIntegral.trans E
```

**Review by riccardobrasca — COMMENTED** [review]
A general comment: [Algebra.trace](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Trace/Defs.html#Algebra.trace) is in the `Algebra` namespace, maybe this should apply also for the normalized trace?

File: Mathlib/FieldTheory/NormalizedTrace.lean (hunk 8 above)
Comment (mistarro) [reply Mathlib/FieldTheory/NormalizedTrace.lean:43]: Would leave it as is to have same "implicitiness" as `normalizedTrace`.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
